US05155130
6-Benzyloxy-2H-1-benzopyran-3-carboxylic acid (362 mg, 1.33 mmol) and DMF (97 mg, 1.33 mmol) are dissolved in 5 ml of dichloromethane. To this is added oxalyl chloride (0.38 g, 2.99 mmol) and the mixture is stirred until no further gas evolution is observed (2 hours). This acid chloride solution is slowly added to a mixture of N-methylhydroxylamine hydrochloride (0.44 g, 5.32 mmol) and triethylamine (0.81 g, 7.98 mmol) in THF/water (4.1 ml/0.99 ml). The resultant mixture is stirred at room temperature for 1 hour, and poured onto 100 ml of 2N aqueous HCl. The mixture is extracted twice with dichloromethane and the organic phase is dried (MgSO4). Evaporation followed by trituration of the residual solid with ethyl acetate/hexane gives 6-benzyloxy-N-hydroxy-N-methyl-2H-1-benzopyran-3-carboxamide, m.p. 143°-146° C., as a pale yellow solid.

reactant | 6-Benzyloxy-2H-1-benzopyran-3-carboxylic acid | 1.33 mmol, 362 mg | C(C1=CC=CC=C1)OC=1C=CC2=C(C=C(CO2)C(=O)O)C1 | C17H14O4
reactant | DMF | 1.33 mmol, 97 mg | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 2.99 mmol, 0.38 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-methylhydroxylamine hydrochloride | 5.32 mmol, 0.44 g | Cl.CNO
reactant | triethylamine | 7.98 mmol, 0.81 g | C(C)N(CC)CC | C6H15N
reactant | HCl | 2N, 100 ml | Cl | ClH
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | THF water | 4.1 ml | C1CCOC1.O
product | 6-benzyloxy-N-hydroxy-N-methyl-2H-1-benzopyran-3-carboxamide | C(C1=CC=CC=C1)OC=1C=CC2=C(C=C(CO2)C(=O)N(C)O)C1 | C18H17NO4
